US06900215B2
4-Fluoro-3-(pyridazin-3-yl)phenylboronic acid (80 mg, 0.37 mmol) was coupled to 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol (94 mg, 0.37 mmol) using the method in Example 1. Purification by chromatography on silica gel eluting with dichloromethane containing 2% methanol then trituration with diethyl ether gave 2-[3-(4-fluoro-3-(pyridazin-3-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol as a white solid: δH (400 MHz, CDCl3) 1.62 (6H, s), 4.46 (1H, s), 7.09 (1H, d, J 7), 7.41 (1H, dd, J 11 and 9), 7.61 (1H, dd, J 9 and 5), 7.64-7.68 (1H, m), 7.90 (1H, s), 8.07 (1H, dt, J 9 and 2), 8.43 (1H, dd, J 7 and 2), 8.72 (1H, d, J 7), 9.22 (1H, dd, J 5 and 2); m/z (ES+) 350 (M++H).

reactant | 4-Fluoro-3-(pyridazin-3-yl)phenylboronic acid | 0.37 mmol, 80 mg | FC1=C(C=C(C=C1)B(O)O)C=1N=NC=CC1 | C10H8BFN2O2
reactant | 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | 0.37 mmol, 94 mg | BrC1=CN=C2N1C=CC(=N2)C(C)(C)O | C9H10BrN3O
product | 2-[3-(4-fluoro-3-(pyridazin-3-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(C)(C)O)C=2N=NC=CC2 | C19H16FN5O
